US03954753
Preparation of 2-amino-3-benzoyl-5-chloropyrazine
2-Amino-5-chloropyrazine-3-carboxylic acid pyrrolidide (9 g. or 0.04 mol) was added to a freshly prepared solution of 36.2 g. (0.2 mol) of phenylmagnesium bromide in 300 ml. of tetrahydrofuran cooled to 20°. After addition, the reaction mixture was stirred for 3 hours at room temperature and was then hydrolyzed by addition of 150 ml. of water. The organic layer was separated, dried over alumina, filtered and evaporated. Crystallization of the oil obtained from ether yielded 2 g. (50%) of the above-named product as yellow crystals, m.p. 158°-161°. The analytical sample was recrystallized from ethyl acetate, m.p. 160°-161°.

reactant | 2-Amino-5-chloropyrazine-3-carboxylic acid pyrrolidide | 0.04 mol, 9 g | NC1=NC=C(N=C1C(=O)N1CCCC1)Cl | C9H11ClN4O
reactant | phenylmagnesium bromide | 0.2 mol | C1(=CC=CC=C1)[Mg]Br
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-amino-3-benzoyl-5-chloropyrazine | NC1=NC=C(N=C1C(C1=CC=CC=C1)=O)Cl | C11H8ClN3O
